US04422871
253 g of 1-phenyl-3-(3'-nitrophenyl)-prop-2-en-1-one are suspended in 2.5 liters of glacial acetic acid. 196 g of concentrated sulfuric acid and 10 g of 10% strength Pd on animal charcoal are added and the mixture is hydrogenated under 1.1 bar hydrogen pressure at 65°-70° C., until no further hydrogen is absorbed. When the mixture has cooled, some of the acetic acid is distilled off, the residue is rendered alkaline with sodium hydroxide solution and extracted by shaking with ether, the organic phase is dried over sodium sulfate and filtered, the solvent is stripped off and the residue is distilled. 150 g of 3-(3-phenylpropyl)-aniline of boiling point 148° C./0.2 mbar are obtained.

reactant | 1-phenyl-3-(3'-nitrophenyl)-prop-2-en-1-one | 253 g | C1(=CC=CC=C1)C(C=CC1=CC(=CC=C1)[N+](=O)[O-])=O | C15H11NO3
reactant | sulfuric acid | 196 g | S(O)(O)(=O)=O | H2O4S
reactant | charcoal | C | CH4
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 2.5 liters | C(C)(=O)O | C2H4O2
catalyst | Pd | [Pd] | Pd
product | 3-(3-phenylpropyl)-aniline | 150 g | C1(=CC=CC=C1)CCCC=1C=C(N)C=CC1 | C15H17N
